US07528129B2
22c) (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 21c from 0.64 g (1.06 mmol) (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetra-hydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 100 mg 10% Pd/C.

reactant | (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetra-hydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.06 mmol, 0.64 g | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C)OCC2=CC=CC=C2)C)C(=O)O)C1 | C34H39N3O7
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C)O)C)C(=O)O)C1 | C27H33N3O7
